US07470723B2
To a stirred solution of benzo[1,3]dioxol-5-yl-(3-ethoxy-4-methoxy-phenyl)-methanol (1.09 g, 3.6 mmol) in CH2Cl2 (20 mL) at room temperature was added activated MnO2 powder (1.6 g, 18.1 mmol) and kept adding 23 equivalents of MnO2 every 35 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give benzo[1,3]dioxol-5-yl-(3-ethoxy-4-methoxy-phenyl)-methanone as an off-white solid (1.06 g, 98% yield): 1H NMR (CDCl3) δ 1.49 (t, J=7 Hz, 3H, CH2CH3), 3.95 (s, 3H, OCH3), 4.16 (q, J=7 Hz, 2H, CH2CH3), 6.07 (s, 2H, CH2), 6.85-6.91 (m, 2H, Ar), 7.32-7.42 (m, 4H, Ar). The product was used in the next step without further purification.

reactant | benzo[1,3]dioxol-5-yl-(3-ethoxy-4-methoxy-phenyl)-methanol | 3.6 mmol, 1.09 g | O1COC2=C1C=CC(=C2)C(O)C2=CC(=C(C=C2)OC)OCC | C17H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 18.1 mmol, 1.6 g | O=[Mn]=O
catalyst | MnO2 | 23 equivalents | O=[Mn]=O
product | benzo[1,3]dioxol-5-yl-(3-ethoxy-4-methoxy-phenyl)-methanone | 1.06 g, 98% yield | O1COC2=C1C=CC(=C2)C(=O)C2=CC(=C(C=C2)OC)OCC | C17H16O5
